US07253180B2
(tert-Butoxycarbonyl-carboxymethyl-amino)-acetic acid 27
A mixture of iminodiacetic acid (5.1 g, 38.3 mmol) and sodium hydrogen carbonate (NaHCO3, 12.9 g, 153 mmol) were dissolved in 50 mL of water. Once the bubbling subsided, 50 mL of THF was added followed by 10.0 g (46.0 mmol) of BOC2O. The mixture was stirred at ambient temperature for 2 days when starting materials were completely consumed as detected by ESI. The reaction was worked up by removing THF and washing the aqueous layer with Et2O twice. The pH of the aqueous layer was then adjusted to 1 using conc. HCl. The product was extracted with EtOAc and solvent removed in vacuo to provide the product as a white solid. The product was purified by crystallization from EtOAc to give 8.04 g (90%) of clear crystals of 27. ES MS [M−H]−232.1.

reactant | iminodiacetic acid | 38.3 mmol, 5.1 g | N(CC(=O)O)CC(=O)O | C4H7NO4
reactant | sodium hydrogen carbonate | 153 mmol, 12.9 g | C(O)([O-])=O.[Na+]
reactant | THF | 50 mL | C1CCOC1 | C4H8O
reactant | BOC2O | 46.0 mmol, 10.0 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | water | 50 mL | O | H2O
product | (tert-Butoxycarbonyl-carboxymethyl-amino)-acetic acid | C(C)(C)(C)OC(=O)N(CC(=O)O)CC(=O)O | C9H15NO6
